US08580805B2
3-(3,5-di-tert-butyl-4-hydroxy-phenyl)-3-oxo-2-[(dimethylamino)methylene]-propanoic Acid Methyl Amide
A 100-mL round bottom flask was charged with 3-(3,5-di-tert-butyl-4-hydroxy-phenyl)-3-oxo-propanoic acid methyl amide (3.05 mg, 10 mmol) and toluene (20 mL). The mixture was heated and to the resulting hot solution was added N,N-dimethylformamide dimethyl acetal (1.50 mL, 11.3 mmol) with evolution of methanol. The mixture was stirred for 5 h without further heating then evaporated to an oil that was taken up in ethyl acetate (50 mL). The resulting solution was washed with water (4×50 mL) then with brine (20 mL), dried with sodium sulfate and evaporated to an oil and then further dried to a solid foam that was kept under high vacuum to reach a constant weight, then ground to a fine powder to afford 3.55 g of the title compound (98%). TLC (ethyl acetate) Rf 0.09. This material, and especially the equivalent material derived from N,N-dimethylacetamidine dimethyl acetal, is readily hydrolyzed to the starting material. It is therefore advisable to use the condensation product directly and immediately after solvent removal.

reactant | 3-(3,5-di-tert-butyl-4-hydroxy-phenyl)-3-oxo-propanoic acid methyl amide | 10 mmol, 3.05 mg | CNC(CC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C18H27NO3
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
reactant | N,N-dimethylformamide dimethyl acetal | 11.3 mmol, 1.50 mL | COC(N(C)C)OC | C5H13NO2
solvent | methanol | CO | CH4O
product | 3-(3,5-di-tert-butyl-4-hydroxy-phenyl)-3-oxo-2-[(dimethylamino)methylene]-propanoic Acid Methyl Amide | 3.55 g, 98% | CNC(C(C(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=CN(C)C)=O | C21H32N2O3
